US07470693B2
D) 4-(4-(2-(Benzylamino)-2-oxoacetamido)-2-fluorophenoxy)picolinamide
The coupling of 4-(4-amino-2-fluorophenoxy)picolinamide to 2-(benzylamino)-2-oxoacetic acid was carried out in a manner similar to that which is described in Step C of Example 1 to give the title compound (90%) as a tan solid. 1H NMR (DMSO-d6) δ 11.08 (s, 1H), 9.63 (t, 1H, J=6 Hz), 8.56 (d, 1H, J=5.6 Hz), 8.15 (br s, 1H), 8.02 (dd, 1H, J=12.8, 2 Hz), 7.82 (d, 1H, J=9.2 Hz), 7.75 (br s, 1H), 7.47 (t, 1H, J=8.8 Hz), 7.39-7.23 (m, 7H), 4.41 (d, 2H, J=6.4 Hz); MS(ESI+) m/z 409.22 (M+H)+.

reactant | 4-(4-amino-2-fluorophenoxy)picolinamide | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
reactant | 2-(benzylamino)-2-oxoacetic acid | C(C1=CC=CC=C1)NC(C(=O)O)=O | C9H9NO3
product | 4-(4-(2-(Benzylamino)-2-oxoacetamido)-2-fluorophenoxy)picolinamide | 90% | C(C1=CC=CC=C1)NC(C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O | C21H17FN4O4
